US06982274B2
Cyclopropanecarboxylic acid {4-bromo-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl}-amide
A total of 513 mg of 4-bromo-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl-amine obtained in Production Example II-21 was dissolved in 19 ml of tetrahydrofuran. Under ice-cooling and stirring, 0.261 ml of triethylamine and 0.089 ml of cyclopropanecarbonyl chloride were added, and the mixture was stirred at room temperature for 90 minutes. Water was added to the reaction mixture, followed by extracting with ethyl acetate. The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:2), to give 471 mg of the title compound as pale yellow crystals.

reactant | 4-bromo-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl-amine | 513 mg | BrC1=C2C(=NN(C2=CC=C1N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F | C32H23BrFN3
reactant | triethylamine | 0.261 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 0.089 ml | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Water | O | H2O
solvent | tetrahydrofuran | 19 ml | O1CCCC1 | C4H8O
product | Cyclopropanecarboxylic acid {4-bromo-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl}-amide | 471 mg | BrC1=C2C(=NN(C2=CC=C1NC(=O)C1CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F | C36H27BrFN3O
